US04120969
4-(Chloromethyl)-3,3-diphenyl-1-(1-phenylethyl)-2-pyrrolidinone
To 34.0 g. (0.09 mole) of 4-(hydroxymethyl)-3,3-diphenyl-1-(1-phenylethyl)-2-pyrrolidinone in 200 ml. of chloroform was added 25.0 g. (0.20 mole) of thionylchloride. To this solution with stirring and ice bath cooling was added dropwise, 20.0 g. (0.26 mole) of dry pyridine maintaining the reaction mixture at 25° C. The solution was refluxed for 1.5 hours, concentrated in vacuo and the residue was dissolved in chloroform. The solution was washed successively with dilute hydrochloric acid solution and dilute sodium hydroxide solution. The chloroform solution was dried, filtered, and concentrated in vacuo. The residue was dissolved in hot isopropyl ether and some isooctane was added. The hot solution was decanted from a gummy residue and the product crystallized from the cooled solution. Seven grams were recrystallized in isopropyl ether to give the product which melted at 115°-120° C.

reactant | 4-(hydroxymethyl)-3,3-diphenyl-1-(1-phenylethyl)-2-pyrrolidinone | 0.09 mole | OCC1C(C(N(C1)C(C)C1=CC=CC=C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H25NO2
reactant | thionylchloride | 0.20 mole | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.26 mole | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(Chloromethyl)-3,3-diphenyl-1-(1-phenylethyl)-2-pyrrolidinone | ClCC1C(C(N(C1)C(C)C1=CC=CC=C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24ClNO
